US07456200B2
To a solution of 4-ethyl-3-thiosemicarbazide(2.38 g, 20 mmol) and triethylamine (6.06 g, 60 mmol) in THF (30 ml), trifluoroacetic anhydride (5.04 g, 24 mmol) was added. The reaction mixture was stirred at room temperature for an h and and heated at 60° C. overnight. Standard work-up, the product was triturated with hexanes to give 564 g of as 4-ethyl-5-trifluoromethyl-4H-[1,2,4]triazole-3-thiol pale-brown solid. 1H-NMR(CDCl3) d(ppm): 12.64 (w, 1H), 4.22 (q, 2H) and 1.44 (t, 3H).

reactant | 4-ethyl-3-thiosemicarbazide | 20 mmol, 2.38 g | C(C)NC(NN)=S | C3H9N3S
reactant | triethylamine | 60 mmol, 6.06 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 24 mmol, 5.04 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-ethyl-5-trifluoromethyl-4H-[1,2,4]triazole-3-thiol | C(C)N1C(=NN=C1C(F)(F)F)S | C5H6F3N3S
